US05639913
(R)-N-Trifluoroacetyl-1-aminoindan
The title compound was prepared in 67% yield from (R)-1-aminoindan (3.35 g, 25.2 mmole) and trifluoroacetic anhydride (5.75 g, 27.4 mmole), as described in Ex. 67; mp: 152°-3° C.

reactant | (R)-1-aminoindan | 25.2 mmole, 3.35 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | trifluoroacetic anhydride | 27.4 mmole, 5.75 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (R)-N-Trifluoroacetyl-1-aminoindan | 67% yield | FC(C(=O)N[C@@H]1CCC2=CC=CC=C12)(F)F | C11H10F3NO
